US06166006
In toluene/ethanol/water (10/1/1) (12 ml) was dissolved methyl 7-bromo-2,3-dihydro-1-benzoxepine-4-carboxylate (700 mg), and to the mixture were added 3-thienyl borate (422 mg) and potassium carbonate (0.98 g). The mixture was stirred at room temperature for 30 minutes, and to the mixture was added tetrakistriphenylphosphine palladium (136 mg). The mixture was stirred at 100° C. for 13 hours and cooled to room temperature, and the mixture was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was removed, and the resulting residue was purified with silica gel column chromatography (hexane/acetone=3/1) to give methyl 7-(3-thienyl)-2,3-dihydro-1-benzoxepine-4-carboxylate (610 mg).

reactant | methyl 7-bromo-2,3-dihydro-1-benzoxepine-4-carboxylate | 700 mg | BrC=1C=CC2=C(C=C(CCO2)C(=O)OC)C1 | C12H11BrO3
reactant | 3-thienyl borate | 422 mg | B(OC1=CSC=C1)([O-])[O-]
reactant | potassium carbonate | 0.98 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene ethanol water | 12 ml | C1(=CC=CC=C1)C.C(C)O.O
product | methyl 7-(3-thienyl)-2,3-dihydro-1-benzoxepine-4-carboxylate | 610 mg | S1C=C(C=C1)C=1C=CC2=C(C=C(CCO2)C(=O)OC)C1 | C16H14O3S
